US04060528
A mixture of 9.9 parts of α-bromo-α-methyl-p-tolyl 5-chloro-2-thienyl ketone, 1.96 parts of sodium cyanide, 12 parts of water and 48 parts of dioxane is stirred for 17 hours while heating at 90° C. The reaction mixture is evaporated and 36 parts of water are added to the residue. The product is extracted with ether. The extract is dried and evaporated. The residue is purified by column-chromatography over silica gel, using chloroform as eluent. The pure fraction is collected and the eluent is evaporated. The residue is triturated in n-hexane, yielding p-(5-chloro-2-thenoyl)hydratroponitrile; mp. 90° C.

reactant | α-bromo-α-methyl-p-tolyl 5-chloro-2-thienyl ketone | ClC1=CC=C(S1)C(=O)C1=CC=C(C=C1)C(C)Br | C13H10BrClOS
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | p-(5-chloro-2-thenoyl)hydratroponitrile | ClC1=CC=C(S1)C(=O)C1=CC=C(C(C#N)C)C=C1 | C14H10ClNOS
